US05756507
[3-(4-bromophenyl)allyl]-[2-[2-(3,4-dimethoxyphenyl)-1H-indol-3-yl]ethyl]amine
To a stirred solution of 2-[2-(3,4-dimethoxyphenyl)-1H-indol-3-yl]ethylamine (261 mg in a mixture of 3 mL N,N-dimethylformamide and 8 mL methylene chloride) at 0° C. was added a solution of 81 mg of 4-bromocinnamyl bromide in 2 mL methylene chloride and the mixture allowed to warm to room temperature. After 27 hours the reaction was quenched by the addition of water followed by extraction with ethyl acetate. The organic portion was dried over over sodium sulfate and purified by flash chromatography on silica gel (methylene chloride:methanol, 95:5) to give the title compound (93 mg). m/e=491 (M)

reactant | 2-[2-(3,4-dimethoxyphenyl)-1H-indol-3-yl]ethylamine | COC=1C=C(C=CC1OC)C=1NC2=CC=CC=C2C1CCN | C18H20N2O2
reactant | 4-bromocinnamyl bromide | 81 mg | BrC1=CC=C(C=CCBr)C=C1 | C9H8Br2
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | methylene chloride | 8 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | [3-(4-bromophenyl)allyl]-[2-[2-(3,4-dimethoxyphenyl)-1H-indol-3-yl]ethyl]amine | 93 mg | BrC1=CC=C(C=C1)C=CCNCCC1=C(NC2=CC=CC=C12)C1=CC(=C(C=C1)OC)OC | C27H27BrN2O2
